US04761489
A mixture of 720 g (5 moles) of 2,5-dimethylhex-3-ene-2,5-diol, 3 g of p-toluenesulfonic acid, 500 g (5 moles) of n-hexanal and 1 l of toluene was refluxed, and the resulting water of reaction (115 ml) was separated off in the course of 5.5 h. The mixture was then left to cool, 10 ml of a 25% strength aqueous sodium hydroxide solution were added, the mixture was washed neutral with a little water and the toluene was removed under reduced pressure at from 50° to 60° C. The residue obtained was distilled under 0.1 mbar to give 796 g of 2-pentyl-4,4,7,7-tetramethyl-4,7-dihydro-1,3-dioxepin of boiling point 75° C./0.1 mbar.

reactant | 2,5-dimethylhex-3-ene-2,5-diol | 5 moles, 720 g | CC(C)(C=CC(C)(O)C)O | C8H16O2
reactant | n-hexanal | 5 moles, 500 g | C(CCCCC)=O | C6H12O
reactant | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2-pentyl-4,4,7,7-tetramethyl-4,7-dihydro-1,3-dioxepin | 796 g | C(CCCC)C1OC(C=CC(O1)(C)C)(C)C | C14H26O2
